US07501421B2
Preparation of 4-Nitro-3H-benzoxazole-2-thione
A solution of KOH (3.31 g, 59.0 mmol) in EtOH and water was treated with carbon disulfide (10.4 g, 136.3 mmol) followed by 2-amino-3-nitrophenol (7.00 g, 45.4 mmol). The mixture was heated at reflux temperature overnight, cooled, concentrated, acidified with 1M HCl and filtered. The filtercake was washed with water and dried in vacuo to provide the title compound (7.0 g, 79%), characterized by NMR and mass spectral analyses.

reactant | KOH | 59.0 mmol, 3.31 g | [OH-].[K+]
reactant | carbon disulfide | 136.3 mmol, 10.4 g | C(=S)=S | CS2
reactant | 2-amino-3-nitrophenol | 45.4 mmol, 7.00 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 4-Nitro-3H-benzoxazole-2-thione | 7.0 g, 79% | [N+](=O)([O-])C1=CC=CC2=C1NC(O2)=S | C7H4N2O3S
